US03956260
49. Z-Thr(tBu)-Pro-NH2
5.27 g of Z-Thr(tBu)-OH and 1.56 g of H-Pro-NH2 are dissolved in 60 ml of acetonitrile, the solution is cooled to 0°C and 3.11 g of dicyclohexylcarbodiimide are added. After 1 hour at 0°C and 20 hours at room temperature the dicyclohexylurea is filtered off and the filtrate is evaporated and the residue taken up in ethyl acetate. The ethyl acetate solution is washed with dilute citric acid solution, soda solution and water, and is dried with sodium sulphate and evaporated. On thin layer chromatography on silica gel plates the colourless residue shows Rf45 = 0.76; Rf43c = 0.70; Rf52 = 0.62.

reactant | Z-Thr(tBu)-OH | 5.27 g | N([C@@H]([C@H](OC(C)(C)C)C)C(=O)O)C(=O)OCC1=CC=CC=C1 | C16H23NO5
reactant | H-Pro-NH2 | 1.56 g | N1[C@H](C(=O)N)CCC1 | C5H10N2O
reactant | dicyclohexylcarbodiimide | 3.11 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | acetonitrile | 60 ml | C(C)#N | C2H3N
product | Z-Thr(tBu)-Pro-NH2 | N([C@@H]([C@H](OC(C)(C)C)C)C(=O)N1[C@H](C(=O)N)CCC1)C(=O)OCC1=CC=CC=C1 | C21H31N3O5
